US04131622
EXAMPLE 6-N,N' -bis(1-ethyl-3-methylpentyl-p-phenylenediamine
A mixture of 768 g. (6 moles) 5-methyl-3-heptanone and 108 g. (1 mole) p-phenylenediamine was reacted and worked up in the same manner as that of Example 1 to give 330 g. (99%) residue of crude N,N'-bis(1-ethyl-3-methylpentyl)-p-phenylenediamine product [IVa, R2 =C2H5, R3 =CH2CH(CH3)C2H5 ] containing some mono-Schiff's base III-c and some di-Schiff's base III-d.

reactant | 5-methyl-3-heptanone | 6 moles | CC(CC(CC)=O)CC | C8H16O
reactant | p-phenylenediamine | 1 mole | C1=CC(=CC=C1N)N | C6H8N2
reactant | N,N'-bis(1-ethyl-3-methylpentyl)-p-phenylenediamine | C(C)C(CC(CC)C)NC1=CC=C(C=C1)NC(CC(CC)C)CC | C22H40N2
product | 1-ethyl-3-methylpentyl-p-phenylenediamine | C(C)C1(CC=C(C=C1)NCCC(CC)C)N | C14H26N2
